US07153968B2
Step 1: 5-Bromo-pyridine-2-carboxylic acid cyclopropylamide
To a solution of 5-bromo-pyridine-2-carboxylic acid methyl ester (1.0 eq.) (see Synth. Commun., 1997, 27, 515) in THF:MeOH (2:1; 0.2M) was added aqueous LiOH (1M; 3.0 eq.). The mixture was stirred for 12 h, concentrated and dried under vacuum. The residue was diluted in CH2Cl2 (0.2M), oxalyl chloride (8.0 eq.) was added and the mixture was stirred for 3h, concentrated, dried under vacuum and diluted in CH2Cl2 (0.2M). Cyclopropylamine (10 eq.) was added and the mixture was stirred for 2 h, poured in saturated aqueous NaHCO3 and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (CH2Cl2:EtOAc; 9:1) afforded the title compound as a yellow solid.

reactant | 5-bromo-pyridine-2-carboxylic acid methyl ester | 1.0 eq. | COC(=O)C1=NC=C(C=C1)Br | C7H6BrNO2
reactant | LiOH | 1M, 3.0 eq. | [Li+].[OH-]
reactant | oxalyl chloride | 8.0 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Cyclopropylamine | 10 eq. | C1(CC1)N | C3H7N
solvent | THF MeOH | 0.2M | C1CCOC1.CO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-Bromo-pyridine-2-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
